US04440565
14.0 g (0.1 mole) of 2-amino-4-methoxy-6-methyl-1,3,5-triazine were suspended in 250 ml of dichloromethane, and a solution of 25.5 g (0.1 mole) of 2,2,2-trichloro-eth-1-oxysulfonyl isocyanate in 100 ml of dichloromethane was added dropwise at 0° to 5° C. The reaction mixture was further stirred for 18 hours at room temperature and cooled to 0° C., and n-hexane was added. The precipitated reaction product was filtered off under suction and recrystallized from absolute ethanol. 35.3 g (89.4% of theory) of N-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)-N'-(2,2,2-trichloro-eth-1-oxy-sulfonyl)-urea of melting point 128° C. were obtained.

reactant | 2-amino-4-methoxy-6-methyl-1,3,5-triazine | 0.1 mole, 14.0 g | NC1=NC(=NC(=N1)OC)C | C5H8N4O
reactant | 2,2,2-trichloro-eth-1-oxysulfonyl isocyanate | 0.1 mole, 25.5 g | ClC(COS(=O)(=O)N=C=O)(Cl)Cl | C3H2Cl3NO4S
reactant | n-hexane | CCCCCC | C6H14
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)-N'-(2,2,2-trichloro-eth-1-oxy-sulfonyl)-urea | 35.3 g, 89.4% | COC1=NC(=NC(=N1)C)NC(=O)NS(=O)(=O)OCC(Cl)(Cl)Cl | C8H10Cl3N5O5S
